US09216991B2
Intermediate 4: 3-(5-bromopyrimidin-2-yl)aniline
A mixture of 5-Bromo-2-iodo-pyrimidine (9.0 g; 31.6 mmol; 1.0 eq.), 3-aminophenyl boronic acid (4.3 g; 31.6 mmol; 1.0 eq.), K2CO3 (17.5 g; 126.4 mmol; 4.0 eq.) and Pd(PPh3)4 (1.83 g; 1.58 mmol; 0.05 eq.) in water/dioxane (67:135 mL) was heated overnight at 100° C. The reaction mixture was then diluted with EtOAc and organic phase was washed with water, dried over magnesium sulfate, filtered and concentrated to give the title compound as a beige solid (7.6 g; 96%). HPLC (Condition A): Rt 1.90 min (purity 78.0%). MS (ESI+): 250.1.

reactant | 5-Bromo-2-iodo-pyrimidine | 31.6 mmol, 9.0 g, 1.0 eq. | BrC=1C=NC(=NC1)I | C4H2BrIN2
reactant | 3-aminophenyl boronic acid | 31.6 mmol, 4.3 g, 1.0 eq. | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
reactant | K2CO3 | 126.4 mmol, 17.5 g, 4.0 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | water dioxane | 135 mL | O.O1CCOCC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 1.58 mmol, 1.83 g, 0.05 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(5-bromopyrimidin-2-yl)aniline | 7.6 g, 96% | BrC=1C=NC(=NC1)C=1C=C(N)C=CC1 | C10H8BrN3
